US04590196
The butyloxycarbonylpiperazine benzisothiazole (0.012 mole) was taken up in warm absolute ethanol and acidified with ethanolic HCl (5 mole equiv.). The solution was stirred 30 minutes at 90°. The mixture was cooled and the solvent removed in vacuo. The crude solid was recrystallized from absolute EtOH affording 4-methoxy-1,2-benzisothiazol-3-yl-piperazine hydrochloride in 62% yield.

reactant | butyloxycarbonylpiperazine benzisothiazole | 0.012 mole | S1N=CC2=C1C=CC=C2.C(CCC)OC(=O)N2CCNCC2
reactant | HCl | 5 mole | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 4-methoxy-1,2-benzisothiazol-3-yl-piperazine hydrochloride | 62% yield | Cl.COC1=CC=CC2=C1C(=NS2)N2CCNCC2 | InChI=1S/C12H15N3OS.ClH/c1-16-9-3-2-4-10-11(9)12(14-17-10)15-7-5-13-6-8-15;/h2-4,13H,5-8H2,1H3;1H
